US05104888
7-t-Butyl-4,6-dihydroxy-2-methyl-2-(4-nitrophenoxymethyl)chroman (Step F1)
A solution of 3.0 g of 6-acetoxy-7-t-butyl-2-methyl-2-(4-nitrophenoxymethyl)chroman-4-one (prepared as described in Preparation 54) in 20 ml of tetrahydrofuran was dropped into a suspension containing 0.3 g of sodium borohydride in 10 ml of methanol whilst stirring over an ice bath. After the whole of the solution had been added, the reaction mixture was stirred for 2 hours at room temperature. The reaction mixture was then ice-cooled again, acidified weakly with 10% w/v aqueous hydrochloric acid and extracted with ethyl acetate. The ethyl acetate extract was washed with water and dried over anhydrous sodium sulfate. The solvent was removed by evaporation under reduced pressure to give crystals. Recrystallization of these crystals from a mixture of benzene and petroleum ether gave the title compound, melting at 194°-201° C.

reactant | 6-acetoxy-7-t-butyl-2-methyl-2-(4-nitrophenoxymethyl)chroman-4-one | 3.0 g | C(C)(=O)OC=1C=C2C(CC(OC2=CC1C(C)(C)C)(COC1=CC=C(C=C1)[N+](=O)[O-])C)=O | C23H25NO7
reactant | sodium borohydride | 0.3 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
product | 7-t-Butyl-4,6-dihydroxy-2-methyl-2-(4-nitrophenoxymethyl)chroman | C(C)(C)(C)C1=C(C=C2C(CC(OC2=C1)(COC1=CC=C(C=C1)[N+](=O)[O-])C)O)O | C21H25NO6
